US04065524
A. 2-chloro-5-azidosulphonylbenzoic acid
To a suspension of 12 g of 2-chloro-5-chlorosulphonylbenzoic acid in 150 ccs of ethanol, a solution of 10 g of sodium azide in 30 ccs of water and 120 ccs of ethanol is dropwise added whilst stirring. Stirring is continued overnight and the inorganic constituents are precipitated with acetone. After allowing to stand at 0° C for a relatively long period, the precipitate is filtered off and the mother liquor is carefully evaporated to dryness by means of a rotary evaporator.

reactant | 2-chloro-5-chlorosulphonylbenzoic acid | 12 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | sodium azide | 10 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-chloro-5-azidosulphonylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C7H4ClN3O4S
